US09328106B2
To a solution of 1-methyl-4-nitro-5-(2,3,4,7-tetrahydrooxepin-2-yl)pyrazole (1.00 g, 4.74 mmol) in DCM (25 mL) was added m-CPBA (70-75%, 1.75 g, 7.11 mmol) and the reaction mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with DCM (50 mL), washed with saturated aqueous NaHCO3 (50 mL), water (50 mL) and brine (50 mL). The organic layer was separated, dried over MgSO4, and concentrated under reduced pressure. Purification via silica gel column chromatography (0-30% EtOAc/isohexane) gave racemic 5-(5,8-dioxabicyclo[5.1.0]octan-4-yl)-1-methyl-4-nitro-pyrazole as a colourless solid (490 mg, 43%). 1H NMR (400 MHz, CDCl3) δ 8.22-7.87 (m, 1H), 5.07 (d, J=9.9 Hz, 1H), 4.50 (dd, J=14.5, 3.1 Hz, 1H), 4.05 (s, 3H), 3.93 (d, J=14.4 Hz, 1H), 3.35 (t, J=4.5 Hz, 1H), 3.13 (t, J=3.6 Hz, 1H), 2.55-2.47 (m, 1H), 2.31-2.21 (m, 1H), 2.16-2.04 (m, 1H), 1.79 (dd, J=14.4, 1.8 Hz, 1H).

reactant | 1-methyl-4-nitro-5-(2,3,4,7-tetrahydrooxepin-2-yl)pyrazole | 4.74 mmol, 1.00 g | CN1N=CC(=C1C1OCC=CCC1)[N+](=O)[O-] | C10H13N3O3
reactant | m-CPBA | 7.11 mmol, 1.75 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | racemic 5-(5,8-dioxabicyclo[5.1.0]octan-4-yl)-1-methyl-4-nitro-pyrazole | 490 mg, 43% | C12CCC(OCC2O1)C1=C(C=NN1C)[N+](=O)[O-] | C10H13N3O4
